US06759429B2
Under nitrogen atmosphere, a solutin of N-triisopropylsilyl-pyrrole (2.00 g) in acetone (40 mL) was cooled at 0° C., and thereto was added N-chlorosuccinimide (1.27 g), and the mixture was allowed to stand overnight. The solvent was evaporated under reduced pressure, and thereto was added hexane. The insoluble materials were removed by filtration. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (hexane) to give 3-chloro-1-triisopropylsilyl-1H-pyrrole (403 mg, 18%).

reactant | N-triisopropylsilyl-pyrrole | 2.00 g | C(C)(C)[Si](N1C=CC=C1)(C(C)C)C(C)C | C13H25NSi
reactant | N-chlorosuccinimide | 1.27 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 3-chloro-1-triisopropylsilyl-1H-pyrrole | 403 mg, 18% | ClC1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C13H24ClNSi
